US07960419B2
To a solution of ethyl trans-crotonate (1.20 kg, 1.31 L, 1.00 equivalent) in DMSO (3.00 L) at ambient temperature is added the above preformed ylide solution over 30 min, while the temperature of the reaction mixture is maintained at about 15-20° C. The progress of the reaction is followed by analysis by gas chromatography (GC, conditions below) until only a small amount of residual crotonate relative to the 2-methylcyclo-propanecarboxylate is observed (about 20-24 h). The reaction mixture is split into two equal (8.5 L) portions for work-up; each portion is treated as follows: Methyl t-butyl ether (MTBE, 6 L) is added, and the biphasic mixture is cooled to 15° C. before the dropwise addition of water (6 L) over about 45 min while maintaining the temperature below 23° C. After the phases are separated, the organic phase is washed twice with 10% brine; and the solvent is gently removed under vacuum (400 mbar, bath temperature 35° C.) to afford the ethyl 2-methylcyclopropanecarboxylate (1.00 kg, 26.8%) containing about 3.3 equivalents of MTBE.

reactant | ethyl trans-crotonate | 1.31 L, 1.20 kg, 1.00 equivalent | C(\C=C\C)(=O)OCC | C6H10O2
reactant | crotonate | C(\C=C\C)(=O)[O-]
reactant | 2-methylcyclo-propanecarboxylate | CC1C(C1)C(=O)[O-]
solvent | DMSO | 3.00 L | CS(=O)C | C2H6OS
product | ethyl 2-methylcyclopropanecarboxylate | 1.00 kg, 26.8% | CC1C(C1)C(=O)OCC | C7H12O2
